US06884868B1
A mixture of ethyl 4-fluorobenzoate (1.90 g) and 1-[4-(6-methoxyhexyloxy)phenyl]piperazine (3.00 g) in dimethylsulfoxide (45 ml) was treated with potassium carbonate (4.25 g), and the mixture was heated at 150° C. for 22 hours. After cooling, water (200 ml) was added to the reaction mixture, and the resulting precipitate was collected by filtration, washed with water and dried under reduced pressure at 50° C. for 7 hours to give ethyl 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoate (3.20 g) as an ocher solid.

reactant | ethyl 4-fluorobenzoate | 1.90 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 1-[4-(6-methoxyhexyloxy)phenyl]piperazine | 3.00 g | COCCCCCCOC1=CC=C(C=C1)N1CCNCC1 | C17H28N2O2
reactant | potassium carbonate | 4.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 45 ml | CS(=O)C | C2H6OS
product | ethyl 4-[4-[4-(6-methoxyhexyloxy)phenyl]piperazin-1-yl]benzoate | 3.20 g | COCCCCCCOC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C26H36N2O4
